US06982348B2
To a solution of (4RS,5SR)-5-(4-phenoxyphenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (6.0 g, 14.5 mmol) in ethanol (100 ml) was added 8N aqueous sodium hydroxide solution (9.0 ml, 72 mmol), and the mixture was heated under reflux for 4 hrs. The reaction solution was concentrated, diluted with water (300 ml) and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give (1RS,2SR)-2-amino-1-(4-phenoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (4.21 g, 75%) as a colorless oil. A portion thereof was recrystallized from ethanol-ether as hydrochloride, which was measured for elemental analysis values.

reactant | (4RS,5SR)-5-(4-phenoxyphenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 14.5 mmol, 6.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C23H18F3NO3
reactant | sodium hydroxide | 72 mmol, 8N, 9.0 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-phenoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 4.21 g, 75% | NC(C(O)C1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C22H20F3NO2
